US07582769B2
To a solution of 2-(trans-4-hydroxy-cyclohexyl)-isoindole-1,3-dione (Glennon et al. J. Med. Chem. 1996, 39, 1, 314-322) (1.0 g, 40.77 mmol) in DMF (4.0 mL) was added NaH (60% in oil, 0.41 g, 10.2 mmol) followed by iodomethane (5.79 g, 40.7 mmol). The reaction mixture was stirred for 16 h before water (15 mL) and ethyl acetate (25 mL) was added and the phases were separated. The organic phase was washed with water (2×10 mL), dried over MgSO4 and the solvent was removed in cacuo. The residue was purified on silica gel (EtOAc-heptane) to give 0.810 g (77%) 2-(trans-4-methoxy-cyclohexyl)-isoindole-1,3-dione. 2-(trans-4-methoxy-cyclohexyl)-isoindole-1,3-dione (0.710 g, 2.74 mmol) in absolute ethanol (10 mL) was added hydrazine hydrate (0.130 g, 4.11 mmol) and the reaction mixture was stirred for 2 h at 50° C. The oilbath was removed and the mixture was stirred for 16 h at room temperature. The volatiles were removed in vacuo and the residue was added NaOH (20 mL, 10 N) and extracted with diethyl ether (3×10 mL). The organic phase was dried with MgSO4 and concentrated in vacuo to give 0.300 g (85%) of 4-trans-methoxy-cyclohexylamine. 4-Trans-methoxy-cyclohexylamine (100 mg, 0.78 mmol) and cyclopentanone (72 mg, 0.85 mmol) in THF-MeOH 2:1 (2 mL) and acetic acid (0.1 mL) was added sodium cyanoborohydride (73 mg, 1.02 mmol) in small portions over 15 min. The reaction mixture was stirred for 16 h before the volatiles were removed in vacuo. The residue was added HCl (1N, 50 mL) and stirred for 16 h at rt. The mixture was added NaOH (10N, 2.5 mL), extracted with diethyl ether (2×10 mL) and dried over MgSO4. The solvent was removed in vacuo to give 134 mg (88%) of cyclopentyl-(4-methoxy-cyclohexyl)-amine.

reactant | 2-(trans-4-hydroxy-cyclohexyl)-isoindole-1,3-dione | 40.77 mmol, 1.0 g | O[C@@H]1CC[C@H](CC1)N1C(C2=CC=CC=C2C1=O)=O | C14H15NO3
reactant | NaH | 10.2 mmol, 0.41 g | [H-].[Na+]
reactant | iodomethane | 40.7 mmol, 5.79 g | IC | CH3I
reactant | water | 15 mL | O | H2O
solvent | DMF | 4.0 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | 2-(trans-4-methoxy-cyclohexyl)-isoindole-1,3-dione | 0.810 g, 77% | CO[C@@H]1CC[C@H](CC1)N1C(C2=CC=CC=C2C1=O)=O | C15H17NO3
